US06589984B1
After adding 60% NaH (220 mg) to a solution of methyl 2-methyl-3-oxopentanoate (750 mg) in THF (5 ml) at 0° C. and stirring at 0° C. for 5 minutes, the mixture was cooled to −78° C. To this reaction solution there was added 1.63 M n-BuLi (3.3 ml), and the mixture was stirred at −78° C. for 30 minutes to prepare a dienolate. A solution of methyl 2-benzofurancarboxylate (300 mg) in THF (10 ml) was added to the dienolate, and the mixture was stirred at −78° C. for 20 minutes. The reaction solution was allowed to return to 0° C., aqueous KHSO4 was added for quenching, and extraction was performed with AcOEt. The organic layer was rinsed with saturated saline and dried with MgSO4, and then filtered and concentrated. The residue was crudely purified by silica gel column chromatography (n-hexane/AcOEt=3/1→2/1) to obtain methyl 5-(benzofuran-2-yl)-2,4-dimethyl-3,5-dioxopentanoate.

reactant | NaH | 220 mg | [H-].[Na+]
reactant | methyl 2-methyl-3-oxopentanoate | 750 mg | CC(C(=O)OC)C(CC)=O | C7H12O3
reactant | n-BuLi | 1.63 M, 3.3 ml | [Li]CCCC
reactant | methyl 2-benzofurancarboxylate | 300 mg | O1C(=CC2=C1C=CC=C2)C(=O)OC | C10H8O3
reactant | KHSO4 | OS(=O)(=O)[O-].[K+]
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | methyl 5-(benzofuran-2-yl)-2,4-dimethyl-3,5-dioxopentanoate | O1C(=CC2=C1C=CC=C2)C(C(C(C(C(=O)OC)C)=O)C)=O | C16H16O5
